### PR TITLE
Slice lattice homomorphisms and (distributive) algebras

### PR DESCRIPTION
**Pull request by ecavallo**
I also added a couple of funny identities, `∧-interchange-∧`and its dual. These could be inlined if they seem too niche.

### CODE REVIEW

File: src/Algebra/Lattice.lagda.tree [hunk 1]
```diff
@@ -211,6 +211,18 @@ record Lattice {ℓ} (L : Type ℓ) : Type ℓ where
       : ∀ {a b c d} → ⦃ _ : a ≤ b ⦄ → ⦃ _ : c ≤ d ⦄
         → (a ∨ c) ≤ (b ∨ d)
     ≤-∨ = ∨-UP (∨-≤-introl auto! , ∨-≤-intror auto!)
+
+  ∨-interchange-∨
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice.lagda.tree]: Judging from the other names in this file, I believe the more conventional name for this entry is `∨-∨-interchange`. I personally very much like additions such as this!

File: src/Algebra/Lattice.lagda.tree [hunk 2]
```diff
@@ -211,6 +211,18 @@ record Lattice {ℓ} (L : Type ℓ) : Type ℓ where
...
+    : ∀ {x y z w}
+      → (x ∨ y) ∨ (z ∨ w) ＝ (x ∨ z) ∨ (y ∨ w)
+  ∨-interchange-∨
+    = ∨-assoc ∙ ap (_∨ _) (ap (_∨ _) ∨-comm ∙ sym ∨-assoc ∙ ∨-comm) ∙ sym ∨-assoc
+
+  ∧-interchange-∧
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice.lagda.tree]: `∧-∧-interchange`

File: src/Algebra/Lattice/Instances/Slice.lagda.tree [hunk 3]
```diff
@@ -82,3 +84,106 @@ module _ {𝓤} {A : Type 𝓤} (L : Lattice A) (i : A) (let module L = Lattice
...
+\author{ecavallo}
+\date{2026-06-25}
+
+\p{
+Given a lattice homomorphism #{f \colon L → M}, each #{i \in L} induces a
+lattice homomorphism #{f_{/i} \colon L_{/i} → M_{/f(i)}} between slice lattices.
+}
+
+\agda{
+module _ {𝓤} {𝓤'} {A : Type 𝓤} {B : Type 𝓤'}
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice/Instances/Slice.lagda.tree]:
```suggestion
module _
  {𝓤 𝓤'} {A : Type 𝓤} {B : Type 𝓤'}
```

File: src/Algebra/Lattice/Instances/Slice.lagda.tree [hunk 4]
```diff
@@ -82,3 +84,106 @@ module _ {𝓤} {A : Type 𝓤} (L : Lattice A) (i : A) (let module L = Lattice
...
 }
+
+\subtree[uma-0003]{
+\title{Slice lattice homomorphisms}
+\taxon{Definition}
+\author{ecavallo}
+\date{2026-06-25}
+
+\p{
+Given a lattice homomorphism #{f \colon L → M}, each #{i \in L} induces a
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice/Instances/Slice.lagda.tree:95]: Nice, I didn't know we had a `\colon` macro

File: src/Algebra/Lattice/Instances/Slice.lagda.tree [hunk 5]
```diff
@@ -82,3 +84,106 @@ module _ {𝓤} {A : Type 𝓤} (L : Lattice A) (i : A) (let module L = Lattice
...
+         ((M.ι x M.∨ M.ι y) M.∧ i)
+           ＝⟨ is-distributive.distrib-∧-∨' (M .snd) ⟩
+         (M.ι x M.∧ i M.∨ M.ι y M.∧ i) ∎)
+    l .is-lattice-hom.pres-∧ {x} {y} =
+      subtype-path
+        ((⌜ M.ι (x L.∧ y) ⌝ M.∧ i)
+           ＝⟨ ap! (M.ι-alg .is-lattice-hom.pres-∧) ⟩
+         ((M.ι x M.∧ M.ι y) M.∧ ⌜ i ⌝)
+           ＝⟨ ap! (sym M.∧-idem) ∙ M.∧-∧-interchange ⟩
+         ((M.ι x M.∧ i) M.∧ (M.ι y M.∧ i)) ∎)
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice/Instances/Slice.lagda.tree:166]: I had to stare at this for a while to understand what was going on, but now I see the markers are quite intuitive actually

**Review by fredrik-bakke — APPROVED** [review]
Nice addition! I only have one extremely minor formatting correction. This contribution taught me a couple of new things 😁

File: src/Algebra/Lattice/Instances/Slice.lagda.tree [hunk 6]
```diff
@@ -130,8 +130,8 @@ module _
 
 \p{
 If #{L} is a lattice and #{ι \colon L → M} is a distributive #{L}-algebra, then
-there is an induced #{L_{/i}}-algebra given by the slice lattice homomorphism
-#{ι_{/i} \colon L_{/i} → M_{/ι(i)}}.
+for any #{i \in M} the slice lattice #{M_{/i}} also becomes a distributive
+#{L}-algebra when equipped with the homomomorphism #{ι ∧ i \colon L → M_{/i}}.
```
Comment (ecavallo) [inline src/Algebra/Lattice/Instances/Slice.lagda.tree]: I just noticed that my description of `Algebra-slice` didn't actually match the definition at all! Fixed now.

Maybe there is also a better name for this definition, since the current name is a bit ambiguous.

File: src/Algebra/Lattice/Instances/Slice.lagda.tree [hunk 7]
```diff
@@ -82,3 +84,107 @@ module _ {𝓤} {A : Type 𝓤} (L : Lattice A) (i : A) (let module L = Lattice
...
 }
+
+\subtree[uma-0003]{
+\title{Slice lattice homomorphisms}
+\taxon{Definition}
+\author{ecavallo}
+\date{2026-06-25}
+
+\p{
+Given a lattice homomorphism #{f \colon L → M}, each #{i \in L} induces a
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice/Instances/Slice.lagda.tree:95]: I forgot to mention this, but we try to stay away from using unicode binary operators and relational symbols in math mode, because apparantly forester doesn't handle it well. I.e. here it should be

```suggestion
Given a lattice homomorphism #{f \colon L \to M}, each #{i \in L} induces a
```

I'm fixing the issues for you now though, because I want to merge this PR.

File: src/Algebra/Lattice/Instances/Slice.lagda.tree [hunk 8]
```diff
@@ -82,3 +84,107 @@ module _ {𝓤} {A : Type 𝓤} (L : Lattice A) (i : A) (let module L = Lattice
...
+\subtree[uma-0004]{
+\title{Slice algebras}
+\taxon{Definition}
+\author{ecavallo}
+\date{2026-06-25}
+
+\p{
+If #{L} is a lattice and #{ι \colon L → M} is a distributive #{L}-algebra, then
+for any #{i \in M} the slice lattice #{M_{/i}} also becomes a distributive
+#{L}-algebra when equipped with the homomomorphism #{ι ∧ i \colon L → M_{/i}}.
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice/Instances/Slice.lagda.tree:134]: @samtoth This paragraph seems to render exactly the same with unicode as opposed to latex macros. What is the extent to which we have to use macros over unicode again?

Comment (fredrik-bakke) [reply src/Algebra/Lattice/Instances/Slice.lagda.tree:134]: For reference here's the rendering:

Image

Comment (samtoth) [reply src/Algebra/Lattice/Instances/Slice.lagda.tree:134]: It was my memory that the unicode arrow just didn't render at all. But I guess either that was incorrect or it is some issue that has been fixed. Forester either supports pre-rendered Latex (which we use e.g. for commutative diagrams) or inline Latex which it renders via [Katex](https://katex.org/)

Comment (fredrik-bakke) [reply src/Algebra/Lattice/Instances/Slice.lagda.tree:134]: I remember that binary operators sometimes render with improper spacing, but I thought `\land` was one of the buggy ones and here it renders fine.

Comment (fredrik-bakke) [reply src/Algebra/Lattice/Instances/Slice.lagda.tree:134]: Hm. Agda-unimath also renders with katex and we've never had issues with using unicode in our latex expressions as far as I can recall.
